US08633173B2
1-[1-(3-Bromo-phenyl)-piperidin-4-yl]-4-methyl-piperazine was prepared from 3-bromophenylboronic acid (0.50 g, 2.5 mmol) and 1-methyl-4-piperidin-4-yl-piperazine (0.23 g, 1.2 mmol) in a manner analogous to Step 49a. The reaction product was isolated as a brown viscous oil (0.069 mg, 16%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.08 (t, J=8.0 Hz, 1H), 7.03 (s, 1H), 6.91 (d, J=8.0 Hz, 1H), 6.82 (d, J=8.0 Hz, 1H), 3.72 (d, J=11.7 Hz, 2H), 2.78-2.33 (m, 11H), 2.30 (s, 3H), 1.93 (d, J=12.9 Hz, 2H), 1.69-1.57 (m, 2H). MS=338, 340 (MH)+.

reactant | 3-bromophenylboronic acid | 2.5 mmol, 0.50 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | 1-methyl-4-piperidin-4-yl-piperazine | 1.2 mmol, 0.23 g | CN1CCN(CC1)C1CCNCC1 | C10H21N3
product | 1-[1-(3-Bromo-phenyl)-piperidin-4-yl]-4-methyl-piperazine | BrC=1C=C(C=CC1)N1CCC(CC1)N1CCN(CC1)C | C16H24BrN3
